US08067599B2
2-(3-Bromo-phenyl)-2-methyl-propionitrile
257 mg 95% sodium hydride were stirred at room temperature in 25 ml dry DMF under an atmosphere of nitrogen. A solution of 1 g 3-bromophenylacetonitrile and 1.593 g iodomethane in 10 ml dry diethyl ether was added slowly below 30° C. The mixture was stirred over night at room temperature and then quenched by addition of a small amount of water. The solvents were evaporated under vacuum and the residue was purified by chromatography on silica in a heptane/ethyl acetate gradient.

reactant | sodium hydride | 257 mg | [H-].[Na+]
reactant | 3-bromophenylacetonitrile | 1 g | BrC=1C=C(C=CC1)CC#N | C8H6BrN
reactant | iodomethane | 1.593 g | IC | CH3I
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-(3-Bromo-phenyl)-2-methyl-propionitrile | BrC=1C=C(C=CC1)C(C#N)(C)C | C10H10BrN
